US06982348B2
2) 4-(pyridin-2-yloxy)benzoic acid
To a solution of benzyl 4-(pyridin-2-yloxy)benzoate (24.8 g, 81.5 mmol) in ethanol (300 ml) was added 10% palladium/carbon (containing water by 50%) (2.0 g), and the mixture was stirred overnight under a hydrogen stream at 80° C. The reaction solution was filtered with celite and the filtrate was concentrated. The residue was recrystallized from ethanol to give the objective substance (14.1 g, 80%).

reactant | benzyl 4-(pyridin-2-yloxy)benzoate | 81.5 mmol, 24.8 g | N1=C(C=CC=C1)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C19H15NO3
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 2.0 g | [Pd] | Pd
product | 4-(pyridin-2-yloxy)benzoic acid | N1=C(C=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C12H9NO3
